US06596772B1
Using procedure as in example 10, a reaction of methyl 1-[3,5-di(trifluoromethyl)phenyl]-5-hydroxy-1H-pyrazole-3-carboxylate (100 mg, 0.282 mmol), NaH (12 mg, 1.1 equiv.) and 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene (82 mg, 1 equiv.) afforded 1-(3,5-bis-trifluoromethyl-phenyl)-5-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-1H-pyrazole-3-carboxylic acidmethyl ester. 1HNMR (300 MHz, DMSO-d6) δ 8.76 (d, J=2.1 Hz, 1H), 8.58 (dd, J=2.1 & 8.2 Hz, 1H), 8.42 (s, 2H), 8.30 (s, 1H), 8.13 (d, J=8.2 Hz, 1H), 6.76 (m, 1H), 3.7 (s, 3H, OCH3). MS-EI m/z 607 [M+].

reactant | methyl 1-[3,5-di(trifluoromethyl)phenyl]-5-hydroxy-1H-pyrazole-3-carboxylate | 0.282 mmol, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)N1N=C(C=C1O)C(=O)OC)(F)F | C13H8F6N2O3
reactant | NaH | 12 mg, 1.1 equiv. | [H-].[Na+]
reactant | 2-nitro-4-(trifluoromethylsulfonyl)chlorobenzene | 82 mg, 1 equiv. | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C(F)(F)F)Cl | C7H3ClF3NO4S
product | 1-(3,5-bis-trifluoromethyl-phenyl)-5-(2-nitro-4-trifluoromethanesulfonyl-phenoxy)-1H-pyrazole-3-carboxylic acidmethyl ester | COC(=O)C1=NN(C(=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)[N+](=O)[O-])C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C20H10F9N3O7S
